US04159981
27. Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asp(OtBu)-Phe-OCH3
The acid is liberated from 2.85 g of Z-Thr(tBu)-OH.dicyclohexylammonium salt in ethyl acetate by means of citric acid as described under 23 and the resulting oil consisting of Z-Thr(tBu)-OH is stirred with 3.33 g of H-Tyr(tBu)-Thr(tBu)-Gln-Asp(OtBu)-Phe-OCH 3 in 80 ml of acetonitrile at room temperature. 1.20 g of dicyclohexylcarbodiimde are added thereto in the solid form and the mixture is stirred for 23 hours at room temperature. After filtering off the precipitated dicyclohexylurea, which is washed with three portions of acetonitrile each of 7 ml, the solution is evaporated in vacuo and the residue is three times precipitated from ethyl acetate/alcohol solution by means of petroleum ether.

reactant | Z-Thr(tBu)-OH | 2.85 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H23NO5
reactant | dicyclohexylammonium salt | CCCCC(C(CC[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O)(F)F.C1CCC(CC1)NC2CCCCC2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | H-Tyr(tBu)-Thr(tBu)-Gln-Asp(OtBu)-Phe | 3.33 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C43H64N6O11
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | Z-Thr(tBu)-Tyr(tBu)-Thr(tBu)-Gln-Asp(OtBu)-Phe-OCH3 | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C60H87N7O15
